** Name: SimpleOpAmp80

.MACRO SimpleOpAmp80 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=5e-6 W=170e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=317e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=18e-6
mDiodeTransistorPmos4 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=42e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=89e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=166e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=166e-6
mNormalTransistorNmos9 FirstStageYout1 outVoltageBiasXXnXX2 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=89e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=292e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=292e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=317e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=170e-6
mNormalTransistorPmos14 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=598e-6
mNormalTransistorPmos15 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=59e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=116e-6
mNormalTransistorPmos17 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=598e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=134e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=134e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp80

** Expected Performance Values: 
** Gain: 88 dB
** Power consumption: 4.61001 mW
** Area: 12218 (mu_m)^2
** Transit frequency: 23.4411 MHz
** Transit frequency with error factor: 23.4408 MHz
** Slew rate: 19.0025 V/mu_s
** Phase margin: 65.8902°
** CMRR: 146 dB
** VoutMax: 3.79001 V
** VoutMin: 0.350001 V
** VcmMax: 4.93001 V
** VcmMin: 1.37001 V


** Expected Currents: 
** NormalTransistorPmos: -120.142 muA
** NormalTransistorPmos: -236.212 muA
** NormalTransistorPmos: -159.666 muA
** NormalTransistorPmos: -272.866 muA
** NormalTransistorPmos: -159.666 muA
** NormalTransistorPmos: -272.866 muA
** NormalTransistorNmos: 159.667 muA
** NormalTransistorNmos: 159.666 muA
** NormalTransistorNmos: 159.667 muA
** NormalTransistorNmos: 159.666 muA
** NormalTransistorNmos: 226.398 muA
** DiodeTransistorNmos: 226.397 muA
** NormalTransistorNmos: 113.2 muA
** NormalTransistorNmos: 113.2 muA
** DiodeTransistorNmos: 120.143 muA
** NormalTransistorNmos: 120.142 muA
** DiodeTransistorNmos: 236.213 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.23301  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outInputVoltageBiasXXnXX1: 1.22001  V
** outSourceVoltageBiasXXnXX1: 0.610001  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** outVoltageBiasXXnXX2: 0.960001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 0.349001  V
** innerTransistorStack2Load2: 0.350001  V
** out1: 0.555001  V
** sourceGCC1: 3.96901  V
** sourceGCC2: 3.96901  V
** sourceTransconductance: 1.94301  V
** inner: 0.610001  V


.END