** Name: SimpleOpAmp82

.MACRO SimpleOpAmp82 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=2e-6 W=6e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=294e-6
mDiodeTransistorNmos3 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=6e-6 W=274e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=274e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=87e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=45e-6
mNormalTransistorNmos8 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=274e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=6e-6 W=274e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=220e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=220e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=294e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=6e-6
mNormalTransistorPmos14 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos15 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=86e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=86e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp82

** Expected Performance Values: 
** Gain: 88 dB
** Power consumption: 6.23501 mW
** Area: 8024 (mu_m)^2
** Transit frequency: 46.7421 MHz
** Transit frequency with error factor: 46.7421 MHz
** Slew rate: 40.2616 V/mu_s
** Phase margin: 76.7764°
** CMRR: 144 dB
** VoutMax: 3.64001 V
** VoutMin: 0.870001 V
** VcmMax: 4.79001 V
** VcmMin: 1.37001 V


** Expected Currents: 
** NormalTransistorNmos: 75.3161 muA
** NormalTransistorPmos: -339.301 muA
** NormalTransistorPmos: -580.805 muA
** NormalTransistorPmos: -339.301 muA
** NormalTransistorPmos: -580.805 muA
** DiodeTransistorNmos: 339.302 muA
** NormalTransistorNmos: 339.301 muA
** NormalTransistorNmos: 339.302 muA
** DiodeTransistorNmos: 339.301 muA
** NormalTransistorNmos: 483.007 muA
** DiodeTransistorNmos: 483.008 muA
** NormalTransistorNmos: 241.504 muA
** NormalTransistorNmos: 241.504 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -75.3169 muA
** DiodeTransistorPmos: -75.3179 muA


** Expected Voltages: 
** ibias: 1.20501  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.603001  V
** outSourceVoltageBiasXXpXX1: 3.81901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 0.700001  V
** innerTransistorStack2Load2: 0.700001  V
** out1: 1.27601  V
** sourceGCC1: 3.77701  V
** sourceGCC2: 3.77701  V
** sourceTransconductance: 1.93401  V
** inner: 0.601001  V


.END