** Name: SimpleOpAmp45

.MACRO SimpleOpAmp45 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=14e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=9e-6 W=10e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=20e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=3e-6 W=452e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=17e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=19e-6
mNormalTransistorNmos8 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=138e-6
mNormalTransistorNmos9 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=138e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=229e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=229e-6
mNormalTransistorPmos12 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=9e-6 W=354e-6
mNormalTransistorPmos13 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourcePmos sourcePmos pmos4 L=3e-6 W=452e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=161e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=161e-6
mNormalTransistorPmos16 FirstStageYsourceTransconductance inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=193e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp45

** Expected Performance Values: 
** Gain: 86 dB
** Power consumption: 1.66701 mW
** Area: 9242 (mu_m)^2
** Transit frequency: 9.41801 MHz
** Transit frequency with error factor: 9.41786 MHz
** Slew rate: 10.4846 V/mu_s
** Phase margin: 84.2249°
** CMRR: 141 dB
** VoutMax: 4.47001 V
** VoutMin: 0.710001 V
** VcmMax: 4.04001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 11.2801 muA
** NormalTransistorNmos: 12.6761 muA
** NormalTransistorNmos: 87.6131 muA
** NormalTransistorNmos: 149.764 muA
** NormalTransistorNmos: 87.6131 muA
** NormalTransistorNmos: 149.764 muA
** DiodeTransistorPmos: -87.6139 muA
** NormalTransistorPmos: -87.6139 muA
** NormalTransistorPmos: -87.6139 muA
** NormalTransistorPmos: -124.302 muA
** NormalTransistorPmos: -62.1509 muA
** NormalTransistorPmos: -62.1509 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -11.2809 muA
** DiodeTransistorPmos: -12.6769 muA


** Expected Voltages: 
** ibias: 1.12201  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** inputVoltageBiasXXpXX2: 4.24701  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load2: 4.60201  V
** out1: 4.25501  V
** sourceGCC1: 0.567001  V
** sourceGCC2: 0.567001  V
** sourceTransconductance: 3.27101  V


.END