** Name: SimpleOpAmp76

.MACRO SimpleOpAmp76 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=40e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=43e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=6e-6 W=17e-6
mDiodeTransistorNmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=2e-6 W=114e-6
mDiodeTransistorPmos5 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=6e-6 W=321e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=2e-6 W=114e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=327e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=327e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=43e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=40e-6
mNormalTransistorPmos13 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=269e-6
mNormalTransistorPmos14 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=128e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=62e-6
mNormalTransistorPmos16 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=269e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=176e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=176e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp76

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 2.84201 mW
** Area: 9638 (mu_m)^2
** Transit frequency: 14.4901 MHz
** Transit frequency with error factor: 14.4902 MHz
** Slew rate: 12.2179 V/mu_s
** Phase margin: 84.7978°
** CMRR: 148 dB
** VoutMax: 4.05001 V
** VoutMin: 0.300001 V
** VcmMax: 5.17001 V
** VcmMin: 1.35001 V


** Expected Currents: 
** NormalTransistorPmos: -129.775 muA
** NormalTransistorPmos: -61.7839 muA
** NormalTransistorPmos: -109.24 muA
** NormalTransistorPmos: -178.441 muA
** NormalTransistorPmos: -109.24 muA
** NormalTransistorPmos: -178.441 muA
** DiodeTransistorNmos: 109.241 muA
** NormalTransistorNmos: 109.241 muA
** NormalTransistorNmos: 109.241 muA
** NormalTransistorNmos: 138.404 muA
** DiodeTransistorNmos: 138.403 muA
** NormalTransistorNmos: 69.2021 muA
** NormalTransistorNmos: 69.2021 muA
** DiodeTransistorNmos: 129.776 muA
** NormalTransistorNmos: 129.775 muA
** DiodeTransistorNmos: 61.7831 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.41801  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outInputVoltageBiasXXnXX1: 1.20001  V
** outSourceVoltageBiasXXnXX1: 0.600001  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** outVoltageBiasXXnXX2: 0.910001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.555001  V
** innerTransistorStack2Load2: 0.350001  V
** sourceGCC1: 4.13201  V
** sourceGCC2: 4.13201  V
** sourceTransconductance: 1.94501  V
** inner: 0.599001  V


.END