** Name: SimpleOpAmp81

.MACRO SimpleOpAmp81 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=6e-6 W=22e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=31e-6
mDiodeTransistorNmos3 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=4e-6 W=47e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=47e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=16e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=297e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=411e-6
mNormalTransistorNmos8 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=47e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=191e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=4e-6 W=47e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=32e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=32e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=6e-6 W=74e-6
mNormalTransistorPmos14 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=147e-6
mNormalTransistorPmos15 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=147e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=204e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=204e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp81

** Expected Performance Values: 
** Gain: 88 dB
** Power consumption: 1.61601 mW
** Area: 6081 (mu_m)^2
** Transit frequency: 6.43701 MHz
** Transit frequency with error factor: 6.43663 MHz
** Slew rate: 6.00432 V/mu_s
** Phase margin: 87.6626°
** CMRR: 148 dB
** VoutMax: 4.13001 V
** VoutMin: 0.820001 V
** VcmMax: 5.25 V
** VcmMin: 1.35001 V


** Expected Currents: 
** NormalTransistorNmos: 132.76 muA
** NormalTransistorPmos: -59.7019 muA
** NormalTransistorPmos: -90.1779 muA
** NormalTransistorPmos: -59.7019 muA
** NormalTransistorPmos: -90.1779 muA
** DiodeTransistorNmos: 59.7011 muA
** NormalTransistorNmos: 59.7001 muA
** NormalTransistorNmos: 59.7011 muA
** DiodeTransistorNmos: 59.7001 muA
** NormalTransistorNmos: 60.9491 muA
** NormalTransistorNmos: 60.9481 muA
** NormalTransistorNmos: 30.4751 muA
** NormalTransistorNmos: 30.4751 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -132.759 muA
** DiodeTransistorPmos: -132.76 muA


** Expected Voltages: 
** ibias: 1.14001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.556001  V
** outSourceVoltageBiasXXpXX1: 4.27801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.493001  V
** innerTransistorStack1Load2: 0.648001  V
** innerTransistorStack2Load2: 0.649001  V
** out1: 1.22701  V
** sourceGCC1: 3.75  V
** sourceGCC2: 3.75  V
** sourceTransconductance: 1.94501  V


.END